US07951815B2
3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one (500 mg, 1.3 mmol) was dissolved in ethyl methyl ketone (4 mL), and water (13 μL) and TMSCl (181 μL) were added and the mixture was stirred overnight. The precipitated solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one hydrochloride was obtained in a yield of 390 mg (72%).

reactant | 3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one | 1.3 mmol, 500 mg | C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)=O | C21H22ClN3O2
reactant | water | 13 μL | O | H2O
reactant | TMSCl | 181 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 4 mL | CC(=O)CC | C4H8O
product | 3-(S)-benzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5-]-decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)=O | InChI=1S/C21H22ClN3O2.ClH/c22-17-8-6-16(7-9-17)20(27)25-12-10-21(11-13-25)23-18(19(26)24-21)14-15-4-2-1-3-5-15;/h1-9,18,23H,10-14H2,(H,24,26);1H/t18-;/m0./s1
